US08895580B2
Step 2: Preparation of (4Z)-4-[(dimethylamino)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one
2,5-Bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one (2.5 g, 8.1 mmol) was dissolved in methanol (3 mL), treated with N,N-dimethylformamide dimethylacetal (1.2 g, 9.7 mmol, 1.2 equiv) and placed into a preheated oil bath at 60° C. for 1 hour. The mixture was cooled to ambient temperature and concentrated in vacuo, providing the titled compound.

reactant | 2,5-Bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | 8.1 mmol, 2.5 g | FC1=C(C=CC=C1)N1N=C(CC1=O)C1=C(C=CC=C1)F | C15H10F2N2O
reactant | N,N-dimethylformamide dimethylacetal | 9.7 mmol, 1.2 g, 1.2 equiv | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 3 mL | CO | CH4O
product | (4Z)-4-[(dimethylamino)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | CN(C)\C=C\1/C(N(N=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C18H15F2N3O
